US04885022
Preparation of 5-hydroxy-(3-isopropoxycarbonyl-4-methanesulfonyl-2-methylbenzoyl)-1-methylpyrazole
The operation and treatment were conducted in the same manner as in Example 1 except that 1.12 g of 1-ethyl-5-hydroxypyrazole was changed to 0.98 g of 5-hydroxy-1-methylpyrazole, and 2.72 g of 4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoic acid was changed to 3.00 g of 3-isopropoxycarbonyl-4-methanesulfonyl-2-methylbenzoic acid, to obtain 1.71 g of the desired product. (Yield: 45%, melting point: 192°-194° C.)

reactant | 1-ethyl-5-hydroxypyrazole | 1.12 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 5-hydroxy-1-methylpyrazole | 0.98 g | OC1=CC=NN1C | C4H6N2O
reactant | 4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoic acid | 2.72 g | CS(=O)(=O)C1=C(C(=C(C(=O)O)C=C1)C)C(=O)OC | C11H12O6S
reactant | 3-isopropoxycarbonyl-4-methanesulfonyl-2-methylbenzoic acid | 3.00 g | C(C)(C)OC(=O)C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C13H16O6S
product | 5-hydroxy-(3-isopropoxycarbonyl-4-methanesulfonyl-2-methylbenzoyl)-1-methylpyrazole | 1.71 g, Yield: 45% | OC1=CC(=NN1C)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C(=O)OC(C)C)C)=O | C17H20N2O6S
